US07498327B2
Preparation of 1-O-{[(2-{1-[(6-Chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}ethyl)amino]carbonyl}-beta-D-glucopyranuronic acid
A solution of 3,4,5-triacetoxy-6-(2-{1-[(6-chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}ethycarbamoyloxy)tetrahydropyran-2-carboxylic acid methyl ester (1.0 g, 1.35 mmol) in THF is treated with CH3OH (38.8 mL) and H2O (10 mL), cooled to 0° C. (ice-water bath), treated with a solution of LiOH.H2O (340 mg, 8.1 mmol, 6 eq) in H2O (5.5 mL) [0.1 N LiOH/MeOH/THF/H2O] and stirred at 0° C. for 2 h under N2 atmosphere. Progress of the deprotection is monitored via reversed-phase TLC (SiO2—C18 MeCN/H2O, 3/7). The reaction mixture is diluted with 150 mL of H2O, neutralized by the addition of 10 g of amberlite-120 (plus) cation exchange material (H+ form) and filtered. The filtrate is concentrated under reduced pressure to an aqueous suspension. This suspension is freeze dried and lyophilized to give the title product, 700 mg (86% yield). Further purification by silica gel column chromatography [CHCl3/CH3OH/H2O (7:3:0.5) as a eluent] provides the title product, 310 mg, 98% pure, identified by mass spectral and NMR analyses. 1H NMR (300 MHz, DMSO-d6): 8.31 (d, 1H, J=4.5 Hz), 7.94-7.91 (m, 1H), 7.82 (s, 1H), 7.69 (d, 1H, J=4.2 Hz), 7.64-7.57 (m, 2H), 7.39-7.27 (m, 2H), 5.31 (d, 1H, J=8.1 Hz), 3.69 (d, 1H, J=9.0 Hz), 3.37-3.13 (m, 5H), 2.82 (t, 2H, J=7.0 Hz); 13C (75 MHz, DMSO-d6): 170.6, 155.4, 155.3, 152.3, 139.2, 134.9, 131.6, 125.7, 124.5, 124.4, 121.1, 121.1, 120.7, 118.8, 116.6, 113.8, 95.5, 76.6, 76.5, 72.8, 72.0, 25.2; LC/MS (ESI) retention time=35.12, [M+H]+=600.7.

reactant | 3,4,5-triacetoxy-6-(2-{1-[(6-chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}ethycarbamoyloxy)tetrahydropyran-2-carboxylic acid methyl ester | 1.35 mmol, 1.0 g | COC(=O)C1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)OC(NCCC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=C(N=C2SC=CN21)Cl)=O | C29H29ClN4O13S2
reactant | CH3OH | 38.8 mL | CO | CH4O
reactant | LiOH.H2O | 8.1 mmol, 340 mg, 6 eq | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 0.1 N, 5.5 mL | O | H2O
solvent | H2O | 150 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 1-O-{[(2-{1-[(6-Chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}ethyl)amino]carbonyl}-beta-D-glucopyranuronic acid | 86% yield | ClC=1N=C2SC=CN2C1S(=O)(=O)N1C=C(C2=CC=CC=C12)CCNC(=O)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)O | C22H21ClN4O10S2
